US04791200
4-[3,5-Dichloro-4-(1H-imidazol-1-yl)propoxyphenyl]-2-phenylthiazole
The title compound was prepared as described in Example 22 using 4-[3,5-dichloro-4-(chloropropoxy)phenyl]-2-phenylthiazole (4.2 g, 11 mmol) and imidazole (2.2 g, 33 mmol) in place of dibutylamine to give 1.9 g (40% yield) of the free base of the title compound which was converted to the HCl salt, mp 204°-207° C. IR(KBr): 3400, 2540 cm-1, MS: 430(MH+). 1H NMR (CD3OD): δ9.08 (brs, 1H), 8.03-7.48 (m, 10H), 4.65 (t, J=5.0 Hz, 2H), 4.12 (t, J=4.5 Hz, 2H), 2.50 (m, 2H).

reactant | 4-[3,5-dichloro-4-(chloropropoxy)phenyl]-2-phenylthiazole | 11 mmol, 4.2 g | ClC=1C=C(C=C(C1OCCCCl)Cl)C=1N=C(SC1)C1=CC=CC=C1 | C18H14Cl3NOS
reactant | imidazole | 33 mmol, 2.2 g | N1C=NC=C1 | C3H4N2
product | 4-[3,5-Dichloro-4-(1H-imidazol-1-yl)propoxyphenyl]-2-phenylthiazole | ClC=1C=C(C=C(C1OCCCN1C=NC=C1)Cl)C=1N=C(SC1)C1=CC=CC=C1 | C21H17Cl2N3OS
